US05998442
[2-(3-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.0 g, 2.29 mmol) in chlorobenzene (10 mL) was treated with a 0.64 M THF solution of 3-methoxyphenylmagnesium bromide (11.0 mL, 7.04 mmol) (prepared from 3-bromoanisole, catalytic iodide, and magnesium turnings in THF) to provide after chromatography (silica gel, 5-10% MeOH in CH2Cl2) 610 mg (53%) of the title compound as a dark oil: 1H NMR d 1.44 (m, 2H), 1.59 (m, 4H), 2.47 (m, 4H), 2.73 (t, J=6.0 Hz, 2H), 3.70 (s, 3H), 3.88 (s, 3H), 4.08 (t, J=6.0 Hz, 2H), 6.76 (m, 3H), 6.96-7.04 (m, 3H), 7.15 (t, J=8.0 Hz, 1H), 7.33 (d, J=2.0 Hz, 1H), 7.56 (d, J=8.9 Hz, 1H), 7.78 (d, J=8.7 Hz, 2H); MS (FD) m/e 501 (M+); Anal. calc'd. for C30H31NO4S: C, 71.83; H, 6.23; N, 2.79. Found: C, 71.68; H, 6.25; N, 2.66.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 2.29 mmol, 1.0 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | THF | 0.64 M | C1CCOC1 | C4H8O
reactant | 3-methoxyphenylmagnesium bromide | 7.04 mmol, 11.0 mL | COC=1C=C(C=CC1)[Mg]Br
reactant | MeOH | CO | CH4O
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(3-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 610 mg, 53% | COC=1C=C(C=CC1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H31NO4S
